US06555556B1
Dimethyl 2-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-nitroisophthalate
To a solution of 1-t-butoxycarbonyl-4-hydroxypiperidine (2.6 g), dimethyl 2-hydroxy-5-nitroisophthalate (1.6 g) and triphenylphosphine (4.4 g) in a mixture of dichloromethane (40 ml) and tetrahydrofuran (20 ml) was added diethyl azodicarboxylate (2.6 ml) and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using dichloromethane/ethyl acetate=19/1 as an eluant to afford a yellow solid. To the solid was added hexane/ethyl acetate=4/1 and then the mixture was filtered to give the desired compound (2.2 g, yield 78%) as a white solid.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 2.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | dimethyl 2-hydroxy-5-nitroisophthalate | 1.6 g | OC1=C(C(=O)OC)C=C(C=C1C(=O)OC)[N+](=O)[O-] | C10H9NO7
reactant | triphenylphosphine | 4.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Dimethyl 2-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-nitroisophthalate | 2.2 g, yield 78% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=C(C=C1C(=O)OC)[N+](=O)[O-] | C20H26N2O9
